US06747041B1
(3-2). Production of 2-chloro-4-[4-(heptafluoro-2-propyl)-2-methylphenyl]aminocarbonyl-3-pyridinecarboxylic acid 2-propylamide (Compound No. 524)
In 10 ml of t-butyl methyl ether was dissolved 500 mg of 2-chloro-4-[4-(heptafluoro-2-propyl)-2-methylphenyl]aminocarbonyl-3-pyridinecarboxylic acid, followed by adding thereto 340 mg of ok trifluoroacetic anhydride, and the resulting mixture was stirred at room temperature for 2 hours. After the disappearance of the starting material was confirmed by TLC, 330 mg of isopropylamine was added to the mixture, followed by stirring at room temperature for another 2 hours. After completion of the reaction, ethyl acetate was added and the reaction solution was washed successively with water, a saturated aqueous sodium hydrogencarbonate solution and a saturated aqueous sodium chloride solution, and dried over anhydrous magnesium sulfate. The solvent was distilled off under reduced pressure and the resulting residue was purified by a silica gel column chromatography using ethyl acetate/n-hexane as an eluent, to obtain 460 mg of the desired compound as white crystals.

reactant | 2-chloro-4-[4-(heptafluoro-2-propyl)-2-methylphenyl]aminocarbonyl-3-pyridinecarboxylic acid | 500 mg | ClC1=NC=CC(=C1C(=O)O)C(=O)NC1=C(C=C(C=C1)C(C(F)(F)F)(C(F)(F)F)F)C | C17H10ClF7N2O3
reactant | trifluoroacetic anhydride | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | isopropylamine | 330 mg | C(C)(C)N | C3H9N
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | t-butyl methyl ether | 10 ml | COC(C)(C)C | C5H12O
product | 2-chloro-4-[4-(heptafluoro-2-propyl)-2-methylphenyl]aminocarbonyl-3-pyridinecarboxylic acid 2-propylamide | 460 mg, Yield 84% | CC(C)NC(=O)C=1C(=NC=CC1C(=O)NC1=C(C=C(C=C1)C(C(F)(F)F)(C(F)(F)F)F)C)Cl | C20H17ClF7N3O2
